US08809382B2
Step 2: 3-(S)-Methyl-pentanedioic acid mono-(2-trimethylsilanyl-ethyl) ester
To the solution of 3-(S)-Methyl-pentanedioic acid methyl ester 2-trimethylsilanyl-ethyl ester in iso-propanol and water was added lithium hydroxide monohydrate and stirred for two hours at RT. The reaction mixture was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 3-(S)-Methyl-pentanedioic acid methyl ester 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C[C@H](CC(=O)OC)C)=O)(C)C | C12H24O4Si
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | iso-propanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 3-(S)-Methyl-pentanedioic acid mono-(2-trimethylsilanyl-ethyl) ester | C[Si](CCOC(C[C@H](CC(=O)O)C)=O)(C)C | C11H22O4Si
